US07375249B2
Ethylmethyl-carbamic acid 3-oxo-indan-5-yl ester
Ethylmethyl carbamyl chloride (15.5 g, 127.57 mmol) was added to a stirred suspension of 6-hydroxy-1-indanone (17.2 g, 116.1 mmol) and potassium carbonate (31.8 g, 188 mmol) in acetonitrile (800 mL) at room temperature over a period of 15 minutes. The reaction mixture was heated to reflux and refluxed for 18 hours. The reaction mixture was cooled to ambient temperature, the solvent evaporated and the residue was diluted with water (250 mL) and extracted three times with toluene (250 mL). The combined organic phase was dried on MgSO4 and toluene was evaporated in a rotary evaporator. The crude crystalline product was purified by crystallization from 2-propanol (200 mL), collected by filtration, and dried under vacuum at 50° C. to afford the title compound (22 g, 81.5%). 1H NMR (300 MHz, CDCl3) δ ppm 7.47-7.44 (2H, m, Ar), 7.36 (1H, dd, J 8.4 and 2.1, Ar), 3.52-3.37 (2H, m, NCH2CH3), 3.14-3.108 [2H, m, OCCH2CH2 and incl. NCH3 (two rotamers), at 3.08 and 2.99 (3H, s, Me)], 2.74-2.71 (2H, m, OCCH2CH2) and 1.25 and 1.19 (two rotamers) (3H,two triplets, J 6.9). Mass Spectrum (FAB+) [MH+]=234

reactant | Ethylmethyl carbamyl chloride | 127.57 mmol, 15.5 g | C(C)N(C(=O)Cl)C | C4H8ClNO
reactant | 6-hydroxy-1-indanone | 116.1 mmol, 17.2 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | potassium carbonate | 188 mmol, 31.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
product | Ethylmethyl-carbamic acid 3-oxo-indan-5-yl ester | 22 g, 81.5% | O=C1CCC2=CC=C(C=C12)OC(N(C)CC)=O | C13H15NO3
